US07642270B2
The mixture of 8-Indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (11.2 mg, 0.027 mmol) and 4-(4-methyl-piperazin-1-yl)-phenylamine (5.2 mg, 0.027 mmol) in 1 mL of isopropanol was heated to 90° C. for 1 hour. The solvent was evaporated and the residue was re-dissolved in a mixture of methanol and CH2Cl2 (1:1, v/v) and applied onto a prep-TLC plate (2000 micro). The plate was developed in NH4OH/MeOH/CH2Cl2 (1:9:90, v/v). 8-indan-5-yl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (Cpd 1) was obtained as a yellow solid (8.6 mg, 61%). 1H NMR (300 MHz, CDCl3) δ (ppm): 9.38 (s, 1H), 8.52 (s, 1H), 7.44 (m, 2H), 7.28 (s, 1H), 7.19 (m, 3H), 6.66 (m, 2H), 4.40 (q, 2H), 3.00-3.18 (m, 8H), 2.60 (m, 4H), 2.35 (s, 3H), 2.22 (m, 2H), 1.40 (t, 3H). Mass Spectrum (LCMS, ESI pos.) Calcd. For C30H32N6O3: 525.25 (M+H), Found: 525.4.

reactant | 8-Indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.027 mmol, 11.2 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C=1C=C2CCCC2=CC1)=O | C20H19N3O5S
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.027 mmol, 5.2 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | isopropanol | 1 mL | C(C)(C)O | C3H8O
product | 8-indan-5-yl-2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NC2=CC=C(C=C2)N2CCN(CC2)C)N(C1)C=1C=C2CCCC2=CC1)=O | C30H32N6O3
